US08957089B2
After adding HCl dissolved in isopropanole (15 ml, 6 molar solution) to a solution of tert-butyl 2-(1-(1-(4-chlorophenyl)cyclobutyl)-3,4-dihydroisoquinolin-7-yloxy)ethylcarbamate (6.20 g, 13.6 mmol) in dichloromethane (200 ml) the mixture was stirred for 14 h. The resulting precipitate was removed by filtration and washed with diisopropylether. After drying the filtrate was dissolved in water and basified with 2N NaOH. Extraction with dichloromethane the combined organic layers were washed with water and saturated NaCl solution. Drying with MgSO4 and removal of the solvent gave 2-(1-(1-(4-chlorophenyl)cyclobutyl)-3,4-dihydroisoquinolin-7-yloxy)ethanamine (3.77 g, 10.6 mmol, 78%).

reactant | HCl | Cl | ClH
reactant | tert-butyl 2-(1-(1-(4-chlorophenyl)cyclobutyl)-3,4-dihydroisoquinolin-7-yloxy)ethylcarbamate | 13.6 mmol, 6.20 g | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCNC(OC(C)(C)C)=O | C26H31ClN2O3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(1-(1-(4-chlorophenyl)cyclobutyl)-3,4-dihydroisoquinolin-7-yloxy)ethanamine | 10.6 mmol, 3.77 g, 78% | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCN | C21H23ClN2O
